US04232107
2-methyl-5-hexadecanoylhydroquinone
Boron trifluoride was introduced with vigorous refluxing until saturation into a mixture of 27.2 g of palmitic acid, 13.7 g of 2-methylhydroquinone and 45 ml of methylene chloride. After standing overnight the mixture was refluxed for another hour and then decomposed with stirring in a solution of 25 g of sodium acetate in 220 ml of water. After 45 min the solution in methylene chloride was separated and evaporated. The residue was stirred with methanol, filtered with suction and recrystallized from n-chlorobutane.

reactant | Boron trifluoride | B(F)(F)F | BF3
reactant | palmitic acid | 27.2 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | 2-methylhydroquinone | 13.7 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | sodium acetate | 25 g | C(C)(=O)[O-].[Na+]
solvent | water | 220 ml | O | H2O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-hexadecanoylhydroquinone | CC1=C(O)C=C(C(=C1)O)C(CCCCCCCCCCCCCCC)=O | C23H38O3
